US09238639B2
D) Methyl(4,7-dichloro-6-methoxy-1-benzothiophen-3-yl)acetate
MsOH (4.5 mL) was added to methyl 4-((2,5-dichloro-3-methoxyphenyl)sulfanyl)-3-oxobutanoate (1.03 g) at 0° C. The mixture was stirred at 0° C. for 10 min and then at room temperature for 1.5 h. The mixture was poured into ice water and extracted with EtOAc. The organic layer was separated, washed successively with saturated aqueous NaHCO3 and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give a solid. The solid was washed with hexane to give the title compound (0.827 g).

reactant | MsOH | 4.5 mL | S(=O)(=O)(C)O | CH4O3S
reactant | methyl 4-((2,5-dichloro-3-methoxyphenyl)sulfanyl)-3-oxobutanoate | 1.03 g | ClC1=C(C=C(C=C1OC)Cl)SCC(CC(=O)OC)=O | C12H12Cl2O4S
product | Methyl(4,7-dichloro-6-methoxy-1-benzothiophen-3-yl)acetate | 0.827 g | COC(CC1=CSC2=C1C(=CC(=C2Cl)OC)Cl)=O | C12H10Cl2O3S
